2121-11-05 06:50:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   Hct trend: 32.1>31.4>29.0>26.3
   Orthostatic overnight, but not tachycardic or hypotensive. Recieved
   1000cc IVF bolus x3.
   History obtained from Patient
   Allergies:
   History obtained from PatientErythromycin (Oral) (Erythromycin Base)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-11-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints this morning. Feels well. Occasional
bloating
 sensation
   in abdomen. Since arrival to ICU, has had 1 small bowel movements.
   Passing flatus. Denies nausea, vomiting. Denies chest pain, shortness
   of breath.
   Flowsheet Data as of  [**2121-11-5**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 77 (66 - 89) bpm
   BP: 103/58(69) {100/52(67) - 137/70(83)} mmHg
   RR: 18 (9 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,305 mL
                                                                  1,658 mL
   PO:
             TF:
   IVF:
                                                                  2,305 mL
                                                                  1,658 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    600 mL
   Urine:
                                                                    500 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,805 mL
                                                                  1,060 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: RRR, (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   GI: Normoactive bowel sounds; soft, not distended; mildly tender to
   palpation inferior to umbilicus
   Extremities: Warm, no lower extremity edema
   Labs / Radiology
   231 K/uL
   9.3 g/dL
   84 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   26.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2121-11-4**]  01:11 PM
                             [**2121-11-4**]  06:51 PM
                             [**2121-11-5**]  12:13 AM
   WBC
   7.6
   Hct
   31.4
   29.0
   26.3
   Plt
   231
   Cr
   1.2
   Glucose
   84
   Other labs: PT / PTT / INR:15.5/31.8/1.4, ALT / AST:17/18, Alk Phos / T
   Bili:47/0.9, Albumin:3.4 g/dL, LDH:106 IU/L, Ca++:8.2 mg/dL, Mg++:1.6
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   25 yoM w/ GI bleed in [**2119**] and no other PMHx represents w/ GI bleed
   likely due to Dieulefoy's lesion.
   # UGIB: s/p EGD w/ large clot visualized, lesion clipped w/ 4 clips and
   s/p epi injection.  Hemodynamically stable and has 2 18 gauge
   peripheral IVs in place.  4 L IVF given, indicating that low hematocrit
   may be partially dilutional. No BM in past 16 hours, supporting minimal
   if any bleeding at this time.
   - Maintain current type and cross (current outdates [**2121-11-7**])
   - Maintain 2 lg bore IVs
   - Given that becomes tachycardic with minor movement, go ahead and
   transfuse 2 units blood.
   - Follow-up gastrin level and h pylori per GI recs (ordered)
   - PPI IV bid
   - f/u GI recs
 transfer to floor? Diet?
   - Per GI recs, plan to repeat EGD in [**3-9**] weeks unless rebleeds and
   needs more urgent EGD
   - Monitor in ICU until demonstrates durable stability
 stable
   hematocrit, no longer orthostatic
   .
   # FEN:  NPO for now given UGI bleed
   .
   # Access: 2PIV (18g)
   .
   # PPx: Pneumoboots, avoid sc heparin given UGIB.  PPI [**Hospital1 **].
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU
   .
   # Comm:
   ICU [**Name2 (NI) 81**] (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-11-4**] 02:36 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-11-06 06:40:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - Transfusion reaction during unit (200cc pRBCs given) with hives
   around neck/back, no respiratory compromise. Transfusion stopped,
   diphenhydramine given with rapid resolution of symptoms. Hematocrit
   trend: 28.1 (during transfusion) > 21.3 (after transfusion) > 29.6(stat
   recheck)
   - Hemolysis labs: Tbili (0.8); LDH (119); Ret-Aut (2.3), Hapto (90)
   Allergies:
   Erythromycin (Oral) (Erythromycin Base)
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-11-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-11-6**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 88) bpm
   BP: 108/62(66) {97/36(53) - 134/71(84)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  3,921 mL
                  PO:
                                                                  1,000 mL
                  TF:
   IVF:
                                                                  2,403 mL
   Blood products:
                                                                    518 mL
   Total out:
                                                                  4,225 mL
                                                                      0 mL
   Urine:
                                                                  4,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -304 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: RRR, (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   GI: Normoactive bowel sounds; soft, not distended; mildly tender to
   palpation inferior to umbilicus
   Extremities: Warm, no lower extremity edema
   Labs / Radiology
   219 K/uL
   9.8 g/dL
   92 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.7 mEq/L
   10 mg/dL
   105 mEq/L
   138 mEq/L
   27.8 %
   5.5 K/uL
        [image002.jpg]
                             [**2121-11-4**]  01:11 PM
                             [**2121-11-4**]  06:51 PM
                             [**2121-11-5**]  12:13 AM
                             [**2121-11-5**]  06:30 AM
                             [**2121-11-5**]  01:24 PM
                             [**2121-11-5**]  06:09 PM
                             [**2121-11-5**]  07:43 PM
                             [**2121-11-6**]  04:33 AM
   WBC
   7.6
   5.5
   Hct
   31.4
   29.0
   26.3
   25.6
   28.1
   21.3
   29.6
   27.8
   Plt
   231
   219
   Cr
   1.2
   1.3
   Glucose
   84
   92
   Other labs: PT / PTT / INR:15.5/33.3/1.4, ALT / AST:17/18, Alk Phos / T
   Bili:47/0.8, Albumin:3.4 g/dL, LDH:119 IU/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 2274**] is a 25 year old male with a PMH significant for GI bleed in
   [**2119**] admitted for upper GIB likely due to Dieulefoy
s lesion
   .
   # UGIB: Patient is s/p EGD with large clot visualized (4 clips placed
   and epi injected) likely representing dieulefoy's lesion.  The patient
   was hemodynamically stable overnight without signs of intravascular
   volume depletion including hypotension or tachycardia.  Patient is H.
   pylori antibody positive.
   - Monitor VS for signs of hemodynamic instability
   - Trend hct, type and crossed, transfuse if hct<21
   - Sequential therapy for H.pylori: PPI and amoxicillin x 5 days, then
   PPI, clarithromycin, and tinidazole x 5 days
   - F/u gastrin
   - PPI IV bid, switch to po.
   - F/u GI recs. Pplan to repeat EGD in [**3-9**] weeks per GI unless rebleeds
   and needs more urgent EGD
   .
   # FEN: Patient tolerating full liquids. ADAT, replete as necessary.
   .
   # Access: PIV
   .
   # PPx:  pneumoboots,  PPI.
   .
   # Code:  FULL CODE
   .
   # Dispo:  Call out today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-11-5**] 03:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for the key portions of history and exam. Agree with Dr. [**First Name (STitle) 784**]
   note as above.  Mr. [**Name13 (STitle) 2291**] is feeling well and remains hemodyn stable.
   No evidence of further bleeding.  Plan to treat H pylori. Gastrin is
   pending.  Remains at small risk of rebleed but should do well.
   Time spent: 35 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2121-11-6**] 17:47 ------